US20010053779A1
A mixture of 2,3,5-trifluoro-6-nitroaniline (300 mg, 1.56 mmol) and 10% palladium on carbon in absolute ethanol was hydrogenated overnight at atmospheric pressure, filtered under nitrogen and concentrated to provide 1,2-diamino-3,4,6-trifluorobenzene (219 mg, 87% yield) as a purple crystalline solid; MS M+ 162.7, +41. +82 (+ACN, +2ACN). (calcd for C6H5F3N2: 162.11).

reactant | 2,3,5-trifluoro-6-nitroaniline | 1.56 mmol, 300 mg | FC1=C(N)C(=C(C=C1F)F)[N+](=O)[O-] | C6H3F3N2O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1,2-diamino-3,4,6-trifluorobenzene | 219 mg, 87% yield | NC1=C(C(=C(C=C1F)F)F)N | C6H5F3N2
